US05025031
2-[3-(1H-Imidazol-1-yl)phenoxy]ethanol
A slurry of 16.0 g (0.10 mole) of 3-(imidazol-1-yl)phenol and 42 g (0.3 mole) of potassium carbonate in 100 ml of methyl ethyl ketone was heated to reflux with stirring. The mixture was treated with 25.5 g (0.3 mole) of chloroethanol by dropwise addition over a 2 hr period. The mixture was heated at reflux for an additional 18 hr then treated with an additional 16.1 g (0.2 mole) of chloroethanol and 27.6 (0.2 mol) of potassium carbonate. After an additional 22 hr heating at reflux all starting material was consumed. The reaction mixture was filtered and the filtrate was concentrated. The residue was partitioned between methylene chloride and 0.1N sodium hydroxide solution. The organic layer was concentrated and the residue was crystallized from ethyl acetate to give 10.2 g (50%) of the title compound as tan crystals, mp 81.0°-83.0° C.

reactant | 3-(imidazol-1-yl)phenol | 0.10 mole, 16.0 g | N1(C=NC=C1)C=1C=C(C=CC1)O | C9H8N2O
reactant | potassium carbonate | 0.3 mole, 42 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroethanol | 0.3 mole, 25.5 g | ClC(C)O | C2H5ClO
reactant | chloroethanol | 0.2 mole, 16.1 g | ClC(C)O | C2H5ClO
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 2-[3-(1H-Imidazol-1-yl)phenoxy]ethanol | 10.2 g, 50% | N1(C=NC=C1)C=1C=C(OCCO)C=CC1 | C11H12N2O2
